US08133886B2
{6-[5-(4-Fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-ylmethyl]-pyrimidin-4-yl}carbamic acid methyl ester
0.4 ml (5 mMol) methyl chloroformate are added to a solution of 54 mg (0.123 mMol) 6-(6-amino-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide in 1 ml CH2Cl2 and 1.5 ml pyridine. After 20 h, the solution is diluted with EtOAc and water, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; CH2Cl2→CH2Cl2/MeOH 92:8) gives the title compound: MS: [M+1]+=499; TLC (CH2Cl2/MeOH 85:15): Rf=0.54; 1H-NMR (DMSO-d6): δ ppm 10.86 (s, HN), 10.65 (s, HN), 8.69 (s, 1H), 8.30 (d, 1H), 8.13 (d, 1H), 8.03 (m, 2H), 7.90 (s, 1H), 7.74 (m, 2H), 7.58 (t, 1H), 7.50 (m, 2H), 4.22 (s, H2C), 3.64 (s, H3C).

reactant | methyl chloroformate | 5 mMol, 0.4 ml | ClC(=O)OC | C2H3ClO2
reactant | 6-(6-amino-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.123 mMol, 54 mg | FC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)CC1=NC=NC(=C1)N)C(F)(F)F | C23H16F4N4O
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | {6-[5-(4-Fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-ylmethyl]-pyrimidin-4-yl}carbamic acid methyl ester | COC(NC1=NC=NC(=C1)CC1=CC2=CC=CC(=C2C=C1)C(NC1=CC(=C(C=C1)F)C(F)(F)F)=O)=O | C25H18F4N4O3
